US03987052
In the manner given in Example 2, 8-nitro-1,3-dihydro-5-(o-chlorophenyl)-2H-1,4-benzodiazepine-2-thione is heated in ethanol with benzoic acid hydrazide and the resulting product heated to 250° C. to give 9-nitro-1-phenyl-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-nitro-1,3-dihydro-5-(o-chlorophenyl)-2H-1,4-benzodiazepine-2-thione | [N+](=O)([O-])C1=CC2=C(C(=NCC(N2)=S)C2=C(C=CC=C2)Cl)C=C1 | C15H10ClN3O2S
reactant | benzoic acid hydrazide | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
solvent | ethanol | C(C)O | C2H6O
product | 9-nitro-1-phenyl-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | [N+](=O)([O-])C1=CC2=C(C(=NCC=3N2C(=NN3)C3=CC=CC=C3)C3=C(C=CC=C3)Cl)C=C1 | C22H14ClN5O2
